US08541573B2
Step 5: N-((1-Benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidin-4-yl)methyl)acetamide (AM14)
Triethylamine (2.5 equiv.) followed by acetyl chloride (1.2 equiv.) were added under cooled conditions to a solution of (1-benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidin-4-yl)methanamine (4.67 mmol, 1 equiv.) in dichloromethane. The resulting solution was warmed to room temperature and stirred for 3 h. The mixture was diluted with dichloromethane and given water and brine washes respectively. The organic layer was dried over sodium sulfate, filtered and the solvent removed. The crude product was purified by column chromatography (silica). Yield: 52%

reactant | Triethylamine | 2.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.2 equiv. | C(C)(=O)Cl | C2H3ClO
reactant | (1-benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidin-4-yl)methanamine | 4.67 mmol, 1 equiv. | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1=CC=NC=C1)CN | C22H31N5
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | N-((1-Benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidin-4-yl)methyl)acetamide | Yield: 52% | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1=CC=NC=C1)CNC(C)=O | C24H33N5O
